US04287197
3-Hydroxymethylisoquinoline (110 g) is added to thionyl chloride (130 cc), whilst cooling so as to keep the temperature between 25° C. and 30° C. The reaction mixture is then heated to the reflux temperature at a rate which is such that the evolution of gas is not excessive. The mixture is heated under reflux for 90 minutes (until the evolution of gas ceases) and then for a further 30 minutes. It is cooled to 5° C. with ice, the slurry formed is filtered and the solid is washed with diethyl ether. 3-Chloromethylisoquinoline hydrochloride (136 g), melting at 202° C., is obtained.

reactant | 3-Hydroxymethylisoquinoline | 110 g | OCC=1N=CC2=CC=CC=C2C1 | C10H9NO
reactant | thionyl chloride | 130 cc | S(=O)(Cl)Cl | Cl2OS
product | 3-Chloromethylisoquinoline hydrochloride | 136 g | Cl.ClCC=1N=CC2=CC=CC=C2C1 | InChI=1S/C10H8ClN.ClH/c11-6-10-5-8-3-1-2-4-9(8)7-12-10;/h1-5,7H,6H2;1H
